US08071771B2
Step A. (±)-6′-Bromo-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione
A stirred mixture of 6-bromo-2-tetralone (17.6 g, 78.2 mmol), sodium cyanide (9.58 g, 195 mmol), and ammonium carbonate (97.7 g, 1.02 mol) in 1420 (100 mL) and EtOH (100 mL) was heated to 70° C. for 3 h, then allowed to cool to ambient temperature. The precipitate was collected by filtration and washed with H2O (5×200 mL). Drying in vacuo afforded the title compound. MS: m/z=297 (M+1).

reactant | 6-bromo-2-tetralone | 78.2 mmol, 17.6 g | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | sodium cyanide | 195 mmol, 9.58 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 1.02 mol, 97.7 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | EtOH | 100 mL | CCO | C2H6O
product | (±)-6′-Bromo-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione | BrC=1C=C2CCC3(CC2=CC1)NC(NC3=O)=O | C12H11BrN2O2
